US07635684B2
To a solution of dichlorophenoxymethane (1 g) in acetonitrile (10 mL) was added methanesulfonamide (0.39 g) under ice-cooling, and the mixture was stirred at room temperature for 48 hours. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resuling mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 1-(N-methanesulfonylimino)-1,1-diphenoxymethane (0.95 g). To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole (50 mg) in tetrahydrofuran (1 mL) was added 1-(N-methanesulfonylimino)-1,1-diphenoxymethane (26 mg) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 2-aminoethanol (49 mg), and the mixture was stirred at 60° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.008 mL), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added acetic acid (0.01 mL). The resulting mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (38 mg).

reactant | dichlorophenoxymethane | 1 g | ClC(OC1=CC=CC=C1)Cl | C7H6Cl2O
reactant | methanesulfonamide | 0.39 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(N-methanesulfonylimino)-1,1-diphenoxymethane | 0.95 g | CS(=O)(=O)N=C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C14H13NO4S
